Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.5261211578600002
[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[O:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.7442760844299998
[C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][C:4][O:5]>>[O:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-0.627275291009
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2],2.40898743182
[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.55232314101
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:1][C:2][O:3].[C:4]([H:5])#[C:6][H:7],-1.49809983903
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],8.80861196452
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.84510352994
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.79587898732
[H:1][C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:3][C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-8.06264213188
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],8.02441673535
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[O:10][H:11],6.43571327518
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]#[C:8][H:9].[H:5],1.70727721317
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],3.86069721847
[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.0235304005900003
[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7]>>[H:1][C:2](=[O:3])[C:5]([O:4])([H:6])[H:7],-2.6901415518
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-2.7295743963200003
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.92406506947
[C:1]#[C:2][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.57526592062
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.34159595818
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:9]([H:10])[H:11].[H:3][C:7](=[C:4]=[C:5]([H:6])[C:12]([H:13])([H:14])[H:15])[H:8],1.69652894819
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.13360270352
[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.79692106583
[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.99534696064
[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.57316465442
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.77116736433
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.1345941646700002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:6],2.36969259201
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9],-0.0763382874101999
